US07320991B2
A mixture of about 1 g (about 7.75 mmol) of 2,4-difluoroaniline, about 1.54 g (about 7 mmol) of tetrafluorophthalic anhydride and about 50 mL of glacial acetic acid was refluxed for about 3.5 hours. The solvent was evaporated to dryness under reduced pressure of from about 200 to about 15 mbar. The residue was dissolved in about 75 mL of CH2C12. The solution was washed three times with about 25 mL of about 0.1 M HCl and twice with about 25 mL of water. The residue was then dried with Na2SO4. After removal of the solvent, the residue was recrystallized from ethyl alcohol to yield about 980 mg (about 42%) of 2-(2,4-difluorophenyl)-4,5,6,7-tetrafluoro-1H-isoindole-1,3(2H)-dione with a melting point of about 145° to about 146° C.

reactant | 2,4-difluoroaniline | about 7.75 mmol, about 1 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | tetrafluorophthalic anhydride | about 7 mmol, about 1.54 g | FC=1C(=C(C(=C2C1C(=O)OC2=O)F)F)F | C8F4O3
solvent | acetic acid | about 50 mL | C(C)(=O)O | C2H4O2
product | 2-(2,4-difluorophenyl)-4,5,6,7-tetrafluoro-1H-isoindole-1,3(2H)-dione | about 980 mg, about 42% | FC1=C(C=CC(=C1)F)N1C(C2=C(C(=C(C(=C2C1=O)F)F)F)F)=O | C14H3F6NO2
